* Z:\mnt\design.r\spice\examples\1191.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 1K
R2 N001 0 1K
V3 IN 0 AC 1
R3 N002 N003 75
R4 OUT 0 75
T1 N003 0 OUT 0 Td=50n Z0=75
XU1 IN N001 +V -V N002 NC_01 LT1191
.ac oct 100 100K 100Meg
* Double Terminated Cable Driver
.lib LTC.lib
.backanno
.end
